US08183380B2
Piperidin-4-yl-carbamic acid tert-butyl ester (0.70 g, 3.0 mmol), triethylamine (1.46 mL, 10 mmol) and 2-chlorethyl-methylsulfide (0.39 g, 3.0 mmol) were dissolved in methanol (10 mL) and stirred for 16 h at 50° C. Then the solvent was removed and the residue subjected to column chromatography (silica gel, heptane:ethyl acetate gradient=1:1→0:1). [1-(2-Methylsulfanyl-ethyl)-piperidin-4-yl]-carbamic acid tert-butyl ester was obtained as a light yellow solid (0.46 g, 48%); MS: m/e=275.5 (M+H+).

reactant | Piperidin-4-yl-carbamic acid tert-butyl ester | 3.0 mmol, 0.70 g | C(C)(C)(C)OC(NC1CCNCC1)=O | C10H20N2O2
reactant | triethylamine | 10 mmol, 1.46 mL | C(C)N(CC)CC | C6H15N
reactant | 2-chlorethyl-methylsulfide | 3.0 mmol, 0.39 g | ClCCSC | C3H7ClS
solvent | methanol | 10 mL | CO | CH4O
product | [1-(2-Methylsulfanyl-ethyl)-piperidin-4-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CCN(CC1)CCSC)=O | C13H26N2O2S
